US07208505B2
A mixture of 2-bromo-1-(2-benzyloxyphenyl)ethanone (J. Med. Chem., 35:3045, 1992; 10.0 g, 32.77 mmol) and sodium formate (4.46 g, 65.6 mmol) in dry dimethylformamide (100 ml) is stirred at room temperature overnight. The mixture is poured into water (400 ml) and extracted with dichloromethane (2×100 ml). The combined extracts are dried over sodium sulfate and concentrated under reduced pressure. The residue is dissolved in acetic acid (100 ml), treated with ammonium acetate (12.62 g, 163.7 mmol), and the mixture is heated for 3 hours. After cooling, the mixture is diluted with water (400 ml) and extracted with dichloromethane (2×100 ml). The combined organic layers are washed with saturated aqueous sodium bicarbonate solution (2×100 ml), dried over sodium sulfate, and concentrated in vacuo. 4-(2-Benzyloxyphenyl)oxazole (1.99 g, 24%) is obtained after chromatography (silica gel, dichloromethane).

reactant | 2-bromo-1-(2-benzyloxyphenyl)ethanone | 32.77 mmol, 10.0 g | BrCC(=O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C15H13BrO2
reactant | sodium formate | 65.6 mmol, 4.46 g | C(=O)[O-].[Na+]
reactant | ammonium acetate | 163.7 mmol, 12.62 g | C(C)(=O)[O-].[NH4+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 4-(2-Benzyloxyphenyl)oxazole | 1.99 g, 24% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N=COC1 | C16H13NO2
